US07825128B2
11) 3-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol
In accordance with procedure 3, 3-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol (1.38 g, 4.4 mmol) and 2-thiophenboronic acid (0.62 g, 4.87 mmol) are dissolved in 15 ml dimethoxyethane under argon, and tri(2-furyl)phosphine (104 mg, 0.45 mmol) and 1 molar Na2CO3 soln. (7.1 ml, 7.1 mmol) are added (the previously light yellow reaction mixture becomes almost colourless and turbid after the Na2CO3 addition). Argon is passed in for 15 mins. Tetrakis(triphenyl-phosphine)palladium (511 mg, 0.44 mmol) is then added and the reaction mixture is stirred for 18 hrs at 75° C. under argon (suspension). Dimethoxyethane is distilled off on the rotary evaporator, the residue treated with 250 ml ethyl acetate and 30 ml H2O, stirred vigorously for 30 mins, and the undissolved substance filtered off at the pump on a G4 frit, and washed with H2O and ethyl acetate: 372 mg residue.

reactant | 3-(2-chloro-5-iodopyrimidine-4-ylamino)propan-1-ol | 4.4 mmol, 1.38 g | ClC1=NC=C(C(=N1)NCCCO)I | C7H9ClIN3O
reactant | 2-thiophenboronic acid | 4.87 mmol, 0.62 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | tri(2-furyl)phosphine | 0.45 mmol, 104 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | Na2CO3 | 1 molar | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | 3-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)propan-1-ol | ClC1=NC=C(C(=N1)NCCCO)C=1SC=CC1 | C11H12ClN3OS
